US09340507B2
32b: 3-Fluoro-4-methanesulfonyl-benzylamine
The purified intermediate 2-(3-fluoro-4-methylsulfonyl-benzyl)-isoindole-1,3-dione (5.50 g, 15.6 mmol) is dissolved in a mixture of methanol (250 mL) and dichloromethane (250 mL). Hydrazine hydrate (4.6 g, 78.4 mmol) is added, and the mixture is stirred at 60° C. for 3 h. The mixture is filtered, and the filtrate is treated with water. The mixture is extracted with ethyl acetate, and the organic layer is dried over Na2SO4 and concentrated under reduced pressure. The residue is purified by preparative reversed-phase HPLC (Luna C18 250*50 mm, gradient of acetonitrile in water, 0.1% TFA). Yield: 3.1 g (81% of theory); ESI mass spectrum: [M+H]+=204; Retention time HPLC: 0.17 min (X012_S01).

reactant | 2-(3-fluoro-4-methylsulfonyl-benzyl)-isoindole-1,3-dione | 15.6 mmol, 5.50 g | FC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1S(=O)(=O)C | C16H12FNO4S
reactant | Hydrazine hydrate | 78.4 mmol, 4.6 g | O.NN
solvent | methanol | 250 mL | CO | CH4O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 3-Fluoro-4-methanesulfonyl-benzylamine | FC=1C=C(CN)C=CC1S(=O)(=O)C | C8H10FNO2S
